*============================================================================================
* LIFEPO4_CELL subcircuit for LTspice
*
* Based on:
*
* SPICE Model Implementation for LiFePO4 Cell
*
* DOI:10.1109/ISFEE51261.2020.9756177
*
* Conference: 2020 International Symposium on Fundamentals of Electrical Engineering (ISFEE)
*============================================================================================

.SUBCKT LIFEPO4_CELL CEL+ CEL- SOC
.PARAM NOMINAL_CAPACITY=180 INTERNAL_RESISTANCE=0.6m INITIAL_SOC=0.5

* ---------------------------
* Open circuit voltage vs SOC
* ---------------------------
E_OCV CELP CELN TABLE {V(SOC)} =(0,2.5,0.03,2.8,0.05,2.9,0.075,3,0.1,3.1,0.12,3.17,0.2,3.2,0.3,3.23,0.4,3.28,0.5,3.29,0.6,3.3,0.65,3.3,0.7,3.31,0.76,3.32,0.8,3.33,0.9,3.34,0.95,3.35,0.97,3.37,0.98,3.38,1,3.5)


V_CSENSE CELN CEL-
R_INT CELP CEL+ {INTERNAL_RESISTANCE}
R_CONV CEL+ CEL- 1e12

CCELL_CAPACITY SOC 0 {3600*NOMINAL_CAPACITY}

G_BAT_CURRENT 0 SOC VALUE = { I(V_CSENSE) * IF(V(SOC)<0 & I(V_CSENSE)<0, 0, 1) * IF(V(SOC)>1 & I(V_CSENSE)>0, 0, 1) }

RSOC SOC 0 1e12

.IC V(SOC)={INITIAL_SOC}

.ENDS
